US05994569
459 mg of 4-methylmorpholine N-oxide, 40 mg of tetrapropylammonium perrhutenate, and 2.53 g of molecular sieves (powder, 4Å) were stirred for 0.25 h at ambient temperature. 590 mg of (1S,4aR,5R,8aR)-5-[(3E,5E )-(R)-(7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)]-4a-methyl-decahydro-naphthalen-1-ol, dissolved in 5 ml of CH2Cl2, was added and the mixture kept for 2.5 h at RT. Dilution with ether, filtration over SiO2, evaporation and flash chromatography (SiO2, hexane/AcOEt=7/3) afforded 283 mg of (4aR,5R,8aR)-5-[(3E,5E)-(R)-(7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)]-4a-methyl-octahydro-naphthalen]-1-one besides of 166 mg of a mixture of product and starting alcohol.

reactant | 4-methylmorpholine N-oxide | 459 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropylammonium | 40 mg | C(CC)[N+](CCC)(CCC)CCC
reactant | (1S,4aR,5R,8aR)-5-[(3E,5E )-(R)-(7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)]-4a-methyl-decahydro-naphthalen-1-ol | 590 mg | OC(/C=C/C=C/C[C@@H](C)[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C)(C)C | C21H36O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (4aR,5R,8aR)-5-[(3E,5E)-(R)-(7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)]-4a-methyl-octahydro-naphthalen | 283 mg | OC(/C=C/C=C/C[C@@H](C)[C@@H]1[C@@]2(CCCC[C@@H]2CCC1)C)(C)C | C21H36O
